US04956382
N-Methyl-N-(5-methanesulphonamidobenzofur-2-ylmethyl)-4-methanesulphonamidophenethylamine
Methanesulphonyl chloride (0.76 g, 6.6 mmole) was added dropwise to a solution of N-methyl-N-(5-aminobenzofur-2-ylmethyl)-4-aminophenethylamine (see Preparation 3--0.9 g, 3.0 mmole) in pyridine (25 ml) and the mixture was stirred at room temperature for 18 hours. The solvent was then evaporated and the residue diluted with aqueous sodium bicarbonate and extracted three times with methylene chloride. The combined organic extracts were dried (MgSO4) and evaporated, and the residue was purified by chromatography on silica eluting with ethyl acetate. The product-containing fractions were combined, evaporated and the resulting solid was recrystallised from ethyl acetate/methanol to give the title compound, yield 0.35 g, m.p. 177°-179°.

reactant | Methanesulphonyl chloride | 6.6 mmole, 0.76 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | N-methyl-N-(5-aminobenzofur-2-ylmethyl)-4-aminophenethylamine | 3.0 mmole, 3--0.9 g | CN(CC=1OC2=C(C1)C=C(C=C2)N)CCC2=CC=C(C=C2)N | C18H21N3O
solvent | pyridine | 25 ml | N1=CC=CC=C1 | C5H5N
product | N-Methyl-N-(5-methanesulphonamidobenzofur-2-ylmethyl)-4-methanesulphonamidophenethylamine | CN(CC=1OC2=C(C1)C=C(C=C2)NS(=O)(=O)C)CCC2=CC=C(C=C2)NS(=O)(=O)C | C20H25N3O5S2
